US06353139B1
Under the same reaction procedure and conditions as in Example 1 (benzaldehyde 0.5 mmol, 2-amino-3-picoline 0.1 mmol, aniline 0.3 mmol, bezoic acid 0.03 mmol), 1-hexene and toluene at various amounts as shown in the following table 8, were added to each 500 ml pressure reactor. The mixture was stirred at normal temperature for 2-3 minutes and then combined with Rh(PPh3)3Cl 0.01 mmol. While the reactor was stopped with a stopper, the reactants were heated at 130 ° C. for 1 hour with stirring. After completion of the reaction, gas chromatography was conducted to determine the yields of heptanophenone, products according to 1-hexene and toluene of various amounts. The results are given in Table 8, below.

reactant | benzaldehyde | 0.5 mmol | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2-amino-3-picoline | 0.1 mmol | NC1=NC=CC=C1C | C6H8N2
reactant | aniline | 0.3 mmol | NC1=CC=CC=C1 | C6H7N
reactant | bezoic acid | 0.03 mmol | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1-hexene | C=CCCCC | C6H12
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | heptanophenone | C(CCCCCC)(=O)C1=CC=CC=C1 | C13H18O
